US09029356B2
2-Amino-N-[5-(3,5-difluoro-benzyl)-1-trityl-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-benzamide [(XXIIA), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=4-(4-methyl-piperazin-1-yl)-2-amino-phenyl, PG=triphenylmethyl]
A mixture of N-[5-(3,5-difluoro-benzyl)-1-trityl-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-nitro-benzamide (170 mg, 0.236 mmol), 10% Pd—C (10 mg) and ammonium formate (25 mg, 0.4 mmol) in methanol (5 mL) was stirred for 18 hours at room temperature. The catalyst was filtered off and the solution was concentrated. The residue was dissolved in dichloromethane, washed with aqueous solution of NaHCO3, dried and concentrated to yield title compound (145 mg, 87%).

reactant | N-[5-(3,5-difluoro-benzyl)-1-trityl-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-nitro-benzamide | 0.236 mmol, 170 mg | FC=1C=C(CC=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(C2=C(C=C(C=C2)N2CCN(CC2)C)[N+](=O)[O-])=O)C=C(C1)F | C45H38F2N6O3
reactant | ammonium formate | 0.4 mmol, 25 mg | C(=O)[O-].[NH4+]
solvent | methanol | 5 mL | CO | CH4O
catalyst | Pd—C | 10 mg | [Pd] | Pd
product | 2-Amino-N-[5-(3,5-difluoro-benzyl)-1-trityl-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-benzamide | 145 mg, 87% | NC1=C(C(=O)NC2=NN(C3=CC=C(C=C23)CC2=CC(=CC(=C2)F)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC(=C1)N1CCN(CC1)C | C45H40F2N6O
